US05049669
A mixture of 10-(1-ethylamino-2-propyl)-2-phenothiazinecarbonitrile acid fumarate, D series (4 g), sodium carbonate (1.32 g) and iodoethane (1 cc) in dimethylformamide (50 cc) is heated to a temperature in the region of 150° C. for 6 hours. After being cooled, the reaction mixture is concentrated to dryness (30 mm Hg; 4 kPa) at 50° C. and the residue is taken up with ethyl acetate (100 cc) and washed successively with distilled water (50 cc) and with saturated aqueous sodium chloride solution (50 cc). The organic phase is dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-(1-Diethylamino-2-propyl)-2-phenothiazinecarbonitrile, D series (3.4 g) is thereby obtained in the form of a yellow oil.

reactant | 10-(1-ethylamino-2-propyl)-2-phenothiazinecarbonitrile | C(C)NCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C18H19N3S
reactant | sodium carbonate | 1.32 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodoethane | 1 cc | ICC | C2H5I
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
product | 10-(1-Diethylamino-2-propyl)-2-phenothiazinecarbonitrile | C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N)CC | C20H23N3S
